Tone stack SWEEP: passive James (Vox-style) bass/treble pots + the switchable mid cut (tone sheet, errata #20)
* IC3 (TL074): A input buffer, PASSIVE James network, B make-up x2, C gyrator for the
* series-resonant mid-cut shunt, D output buffer, then the volume pot (max) with the
* 470 pF bright cap and the downstream loads (summer 100k, tank driver 220k).
* Pots 250k lin; position 0 = counter-clockwise (cut) .. 1 = clockwise (boost).
* Tables: gain re 1 V at Q2's drain (dB) vs frequency for each pot position, and mid ON/OFF.

.include models/opamp1p.sub

Vin  in 0 AC 1
R_src in q2d 10k
C_cpl_out q2d PREAMP_OUT 1u
R_inb PREAMP_OUT 0 1meg
X_A PREAMP_OUT BUF BUF OPAMP1P PARAMS: aol=2e5 gbw=3e6

.param pb=0.5 pt=0.5 RVB=250k RVT=250k rsw=1e9
* bass ladder
R_j1 BUF JA 10k
R_bA JA JWB {RVB*(1-pb)+1}
R_bB JWB JB {RVB*pb+1}
C_j1 JA JWB 22n
C_j2 JWB JB 22n
R_j2 JB 0 10k
R_j3 JWB JOUT 68k
* treble ladder
C_j3 BUF JTA 2.2n
R_tA JTA JWT {RVT*(1-pt)+1}
R_tB JWT JTB {RVT*pt+1}
C_j4 JTB 0 2.2n
R_j4 JWT JOUT 1k
* make-up x2
X_B JOUT MKN MK_OUT OPAMP1P PARAMS: aol=2e5 gbw=3e6
R_mk1 MK_OUT MKN 10k
R_mk2 MKN 0 10k
* mid cut
R_mid MK_OUT MID 10k
R_sw MID MIDSW {rsw}                    ; SW_MID: 1 mOhm = ON, 1 GOhm = OFF
C_res MIDSW GYA 22n
R_gL GYA GYO 4.7k
C_gg GYA GYP 2.2n
R_gg GYP 0 180k
X_C GYP GYO GYO OPAMP1P PARAMS: aol=2e5 gbw=3e6
* output buffer, volume (max), bright cap, loads
X_D MID OBUF OBUF OPAMP1P PARAMS: aol=2e5 gbw=3e6
C_tout OBUF VOLTOP 1u
R_volA VOLTOP TONE_OUT 1k
R_volB TONE_OUT 0 249k
C_treble VOLTOP TONE_OUT 470p
R_ld1 TONE_OUT 0 100k
R_ld2 TONE_OUT 0 220k

.control
echo "--- BASS pot (treble centred, mid OFF): gain dB at 60 / 100 / 200 / 400 / 1k / 3k / 5k / 10k Hz"
foreach pb 0 0.25 0.5 0.75 1
  alterparam pb=$pb
  reset
  ac dec 40 20 20k
  echo ""
  meas ac g60 FIND vdb(TONE_OUT) AT=60
  meas ac g100 FIND vdb(TONE_OUT) AT=100
  meas ac g200 FIND vdb(TONE_OUT) AT=200
  meas ac g400 FIND vdb(TONE_OUT) AT=400
  meas ac g1k FIND vdb(TONE_OUT) AT=1000
  meas ac g3k FIND vdb(TONE_OUT) AT=3000
  meas ac g5k FIND vdb(TONE_OUT) AT=5000
  meas ac g10k FIND vdb(TONE_OUT) AT=10000
  echo bass=$pb  $&g60 $&g100 $&g200 $&g400 $&g1k $&g3k $&g5k $&g10k
end
echo "--- TREBLE pot (bass centred, mid OFF)"
alterparam pb=0.5
foreach pt 0 0.25 0.5 0.75 1
  alterparam pt=$pt
  reset
  ac dec 40 20 20k
  echo ""
  meas ac g60 FIND vdb(TONE_OUT) AT=60
  meas ac g100 FIND vdb(TONE_OUT) AT=100
  meas ac g200 FIND vdb(TONE_OUT) AT=200
  meas ac g400 FIND vdb(TONE_OUT) AT=400
  meas ac g1k FIND vdb(TONE_OUT) AT=1000
  meas ac g3k FIND vdb(TONE_OUT) AT=3000
  meas ac g5k FIND vdb(TONE_OUT) AT=5000
  meas ac g10k FIND vdb(TONE_OUT) AT=10000
  echo treble=$pt  $&g60 $&g100 $&g200 $&g400 $&g1k $&g3k $&g5k $&g10k
end
echo "--- MID CUT switch (both pots centred): gain dB at 200 / 400 / 600 / 800 / 1k / 1.5k / 2k / 4k Hz, notch"
alterparam pt=0.5
foreach rsw 1e9 1e-3
  alterparam rsw=$rsw
  reset
  ac dec 100 20 20k
  echo ""
  meas ac g200 FIND vdb(TONE_OUT) AT=200
  meas ac g400 FIND vdb(TONE_OUT) AT=400
  meas ac g600 FIND vdb(TONE_OUT) AT=600
  meas ac g800 FIND vdb(TONE_OUT) AT=800
  meas ac g1k FIND vdb(TONE_OUT) AT=1000
  meas ac g15 FIND vdb(TONE_OUT) AT=1500
  meas ac g2k FIND vdb(TONE_OUT) AT=2000
  meas ac g4k FIND vdb(TONE_OUT) AT=4000
  meas ac gmin MIN vdb(TONE_OUT) FROM=100 TO=5000
  echo mid_rsw=$rsw  $&g200 $&g400 $&g600 $&g800 $&g1k $&g15 $&g2k $&g4k   min $&gmin dB   (rsw 1e9 = switch OFF, 1e-3 = ON)
end
.endc
.end
